US08134004B2
Step CA2B: 6-tert-Butylquinoline-2-carbonitrile
A mixture of 6-tert-butylquinoline 1-oxide (310 mg, 1.54 mmol), trimethylsilylcyanide (458 mg, 4.62 mmol), trimethylamine (312 mg, 3.08 mmol) in acetonitrile (3 ml) was stirred for 15 minutes at 120° C. under microwave irradiation. The mixture was applied to a silica gel column chromatography and eluted with hexane/EtOAc (20:1) to furnish the title compound (295 mg, 91% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm 1.44 (9H, s), 7.68 (1H, d, J=8.8 Hz), 7.79 (1H, d, J=2.2 Hz), 7.94 (1H, d, J=2.2, 8.8 Hz), 8.11 (1H, d, J=8.8 Hz), 8.26 (1H, d, J=8.8 Hz) MS (ESI): m/z 211 (M+H)+.

reactant | 6-tert-butylquinoline 1-oxide | 1.54 mmol, 310 mg | C(C)(C)(C)C=1C=C2C=CC=[N+](C2=CC1)[O-] | C13H15NO
reactant | trimethylsilylcyanide | 4.62 mmol, 458 mg | C[Si](C)(C)C#N | C4H9NSi
reactant | trimethylamine | 3.08 mmol, 312 mg | CN(C)C | C3H9N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-tert-Butylquinoline-2-carbonitrile | 295 mg, 91% yield | C(C)(C)(C)C=1C=C2C=CC(=NC2=CC1)C#N | C14H14N2
